* Z:\mnt\design.r\spice\examples\1475-3.3.asc
V1 IN 0 10
L1 N001 OUT 100µ
D1 0 N001 MBR0530L
C1 OUT 0 100µ
XU1 OUT N002 IN 0 N001 IN IN N003 LTC1475 top=1.68Meg bot=1Meg
Rload OUT 0 20
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
.lib LTC1475.sub
.backanno
.end
